US07572820B2
4-Chloro-1-{[5-(5-cyano-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(difluoromethyl)-1H-indole-5-carbonitrile
To a solution of 1-{[5-(5-bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile (0.015 g, 0.032 mmol) in anhydrous DMF (1.5 mL) under N2, was added Zn(CN)2 (0.002 g, 0.016 mmol) and Pd(PPh3)4 (0.004 g, 0.0032 mmol). The mixture was heated at 120° C., under N2 for 1 h. Additional Pd(PPh3)4 (0.004 g, 0.0032 mmol) was added and the mixture was heated at 120° C., under N2 for another 40 min. Upon cooling, the mixture was partitioned between Et2O and water. The organic phase was washed with water and sat'd brine. The combined aqueous phases were washed with EtOAc. The EtOAc phase was washed with water (2×) and brine. The Et2O and EtOAc phases were combined, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (5-70% EtOAc-hexanes gradient), followed by a second purification by radial chromatography (0-3% MeOH—CH2Cl2 gradient). The product was crystallized from CH2Cl2-hexanes to afford the title compound as a white solid (0.008 g, 61% yield): MS (ES) m/z 411 (M+1).

reactant | 1-{[5-(5-bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | 0.032 mmol, 0.015 g | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)Cl)C(F)F | C18H9BrClF2N5O
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.016 mmol, 0.002 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.0032 mmol, 0.004 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.0032 mmol, 0.004 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-1-{[5-(5-cyano-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(difluoromethyl)-1H-indole-5-carbonitrile | 0.008 g, 61% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC=1OC(=NN1)C=1C=NC=C(C1)C#N)C(F)F | C19H9ClF2N6O
